US04329347
6-[4-(4-Bromo-3-methyl-phenylsulfinyl)-butoxy]-3,4-dihydro-carbostyril
Prepared analogous to Example 123 from 6-[4-(4-bromo-3-methyl-phenylmercapto)-butoxy]-3,4-dihydro-carbostyril and hydrogen peroxide.

reactant | 6-[4-(4-bromo-3-methyl-phenylmercapto)-butoxy]-3,4-dihydro-carbostyril | BrC1=C(C=C(C=C1)SCCCCOC=1C=C2CCC(NC2=CC1)=O)C | C20H22BrNO2S
reactant | hydrogen peroxide | OO | H2O2
product | 6-[4-(4-Bromo-3-methyl-phenylsulfinyl)-butoxy]-3,4-dihydro-carbostyril | BrC1=C(C=C(C=C1)S(=O)CCCCOC=1C=C2CCC(NC2=CC1)=O)C | C20H22BrNO3S
